US07276507B2
Preparation of 3-phenylpyrido[2,3-b]pyrazin-6-ylamine (reaction shown in scheme 1, 1st and 2nd stage)
A solution of 1.22 g of 2,6-diamino-3-nitropyridine (7.92 mmol) in 210 ml of ethanol is hydrogenated with Raney nickel as catalyst at 50° C. and 5 bar. After the hydrogenation is complete, the catalyst is filtered off with suction through a glass fibre filter. Before the filtration, 1.68 g of phenylglyoxal hydrate (11.03 mmol) are introduced into 50 ml of ethanol in the receiver. The catalyst is then filtered off under nitrogen as protective gas, and the hydrogenation solution is sucked directly into the reaction flask. The greenish blue reaction mixture is heated under reflux under nitrogen for 30 min. The mixture is allowed to cool, and the solvent is removed in vacuo. A dark brown solid is finally obtained. Purification by column chromatography on silica gel (mobile phase dichloromethane/methanol mixture) affords a pale yellow crystalline solid.

reactant | 2,6-diamino-3-nitropyridine | 7.92 mmol, 1.22 g | NC1=NC(=CC=C1[N+](=O)[O-])N | C5H6N4O2
reactant | phenylglyoxal hydrate | 11.03 mmol, 1.68 g | O.C1(=CC=CC=C1)C(=O)C=O
solvent | ethanol | 210 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-phenylpyrido[2,3-b]pyrazin-6-ylamine | C1(=CC=CC=C1)C1=CN=C2C(=N1)N=C(C=C2)N | C13H10N4
